US06365736B1
2-Methyl-6-[2-(3-chlorobenzyl-tert-butyloxycarbonylamino)-ethyl]-3,4-dihydro-2H-1,4-benzoxazine-3-thione
730.6 mg (1.696 mmol) of 2-methyl-3-oxo-6-[2-(3-chlorobenzyl-tert-butyloxycarbonylamino)-ethyl]-3,4-dihydro-2H-1,4-benzoxazine is mixed in 8 ml of pyridine with 201.1 mg (0.607 mmol) of phosphorus pentasulfide, and then it is refluxed for four hours. The solvent is spun off, and the remaining residue is chromatographed on silica gel (mobile solvent: ethyl acetate/hexane). The yield is 439.3 mg (58%).

reactant | 2-methyl-3-oxo-6-[2-(3-chlorobenzyl-tert-butyloxycarbonylamino)-ethyl]-3,4-dihydro-2H-1,4-benzoxazine | 1.696 mmol, 730.6 mg | CC1OC2=C(NC1=O)C=C(C=C2)CCN(C(=O)OC(C)(C)C)CC2=CC(=CC=C2)Cl | C23H27ClN2O4
reactant | phosphorus pentasulfide | 0.607 mmol, 201.1 mg | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | 2-Methyl-6-[2-(3-chlorobenzyl-tert-butyloxycarbonylamino)-ethyl]-3,4-dihydro-2H-1,4-benzoxazine-3-thione | CC1OC2=C(NC1=S)C=C(C=C2)CCN(C(=O)OC(C)(C)C)CC2=CC(=CC=C2)Cl | C23H27ClN2O3S
